US07081531B2
5-(3,4-Dichloro-benzylidene)-2-aza-bicyclo[2.2.2]octane-2-carboxylic acid tert-butyl ester (0.45 g) was stirred under 1 atm of H2 in 20 ml of 1:1 of EtOH:EtOAc in the presence of PtO2 for 20 min. The reaction mixture was filtered through celite and concentrated to give 0.4 g of 5-(3,4-dichloro-benzyl)-2-aza-bicyclo[2.2.2]octane-2-carboxylic acid tert-butyl ester (M+: 369).

reactant | 5-(3,4-Dichloro-benzylidene)-2-aza-bicyclo[2.2.2]octane-2-carboxylic acid tert-butyl ester | 0.45 g | C(C)(C)(C)OC(=O)N1C2CC(C(C1)CC2)=CC2=CC(=C(C=C2)Cl)Cl | C19H23Cl2NO2
reactant | EtOH | CCO | C2H6O
catalyst | PtO2 | O=[Pt]=O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-(3,4-dichloro-benzyl)-2-aza-bicyclo[2.2.2]octane-2-carboxylic acid tert-butyl ester | 0.4 g | C(C)(C)(C)OC(=O)N1C2CC(C(C1)CC2)CC2=CC(=C(C=C2)Cl)Cl | C19H25Cl2NO2
